US04036858
7,8-Epoxy-2-methyloctadecane is economically prepared by a metathesis reaction of 7-methyl-1-octene and 1-dodecene to form 2-methyl-7-octadecene which is then epoxidized to give the desired product.

reactant | 7,8-Epoxy-2-methyloctadecane | O1C(CCCCC(C)C)C1CCCCCCCCCC | C19H38O
reactant | 7-methyl-1-octene | CC(CCCCC=C)C | C9H18
reactant | 1-dodecene | C=CCCCCCCCCCC | C12H24
product | 2-methyl-7-octadecene | CC(C)CCCCC=CCCCCCCCCCC | C19H38
